US07115611B2
C] 3-Chloromethyl-2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridine
0.300 g (1.059 mmol) of the above prepared [2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridin-3-yl]-methanol was dissolved in 5.3 ml of CH2Cl2 and treated dropwise at 0° C. with 0.15 ml (2 eq.) of SOCl2. The reaction mixture was kept at 0° C. for 5 Min. and at RT for 30 Min. Pouring onto crashed ice/NaHCO3, twofold extraction with AcOEt, washing with water, drying over sodium sulfate and evaporation of the solvents generated 0.315 g of pure title compound as light yellow oil.

reactant | [2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridin-3-yl]-methanol | CC1=NC(=CC=C1CO)C1=CC=C(C=C1)OC(F)(F)F | C14H12F3NO2
reactant | SOCl2 | 0.15 ml, 2 eq. | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 5.3 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloromethyl-2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)C | C14H11ClF3NO
